US06872857B1
Preparation of 2-chloro-1,4-benzoquinone
A mixture of 2,4-dichlorophenol (5 mmol) and Ti-superoxide catalyst (125 mg, 20% w/w) in acetic acid (5 ml) was heated with stirring at 60-70° C. under inert atmosphere. To this reaction mixture was added aq. 30% H2O2 (20 mmol) drop wise over 15 min. and heated for 1 h. The catalyst was recovered by simple filtration and corresponding quinone formed (25%) was separated by chromatographic purification.

reactant | 2,4-dichlorophenol | 5 mmol | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | H2O2 | 20 mmol | OO | H2O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-chloro-1,4-benzoquinone | ClC=1C(C=CC(C1)=O)=O | C6H3ClO2
